US07855216B2
Step 1: 4-(2-Hydroxy-ethylamino)-nicotinonitrile
A mixture of ethanolamine (0.60 mL, 10.0 mmol), 4-chloronicotinonitrile (1.38 g, 10.0 mmol) and diisopropylethylamine (1.74 mL, 10.0 mmol) in isopropanol was heated at reflux for 2.5 hours. It was cooled to room temperature and loaded on to a 50 g SCX-2 cartridge preconditioned with methanol. The cartridge was eluted with methanol and then with a 2M solution of ammonia in methanol. Collecting appropriate fractions followed by evaporation of solvents gave the title compound as a beige solid (1.20 g, 74%). 1H NMR (d6-DMSO, 400 MHz) 8.40 (s, 1H), 8.21 (d, J=6.3 Hz, 1H), 6.94 (bs, 1H), 6.77 (d, J=6.3 Hz, 1H), 4.84 (bs, 1H), 3.55 (t, J=6.0 Hz, 2H), 3.31 (dt, J=6.0 Hz, 6.0 Hz, 2H).

reactant | ethanolamine | 10.0 mmol, 0.60 mL | C(O)CN | C2H7NO
reactant | 4-chloronicotinonitrile | 10.0 mmol, 1.38 g | ClC1=CC=NC=C1C#N | C6H3ClN2
reactant | diisopropylethylamine | 10.0 mmol, 1.74 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanol | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2-Hydroxy-ethylamino)-nicotinonitrile | 1.20 g, 74% | OCCNC1=CC=NC=C1C#N | C8H9N3O
